US09102621B2
2-Methoxy-4-(bromomethyl)-N-(methylsulfonyl)benzamide
2-Methoxy-4-methyl-N-(methylsulfonyl)benzamide (Preparation 24, 500 mg, 2.06 mmol), N-bromosuccimide (402 mg, 2.36 mmol), azobisisobutyronitrile (10 mg, 0.06 mmol) and carbon tetrachloride (20 mL) were combined and stirred at reflux under nitrogen, whilst being irradiated with light from a lamp for 1 hour. After cooling, the mixture was evaporated, the residue suspended in water (30 mL) and extracted with EtOAc (1×30 mL). The organic layer was separated, washed with saturated brine (2×20 mL), dried over sodium sulfate, filtered and evaporated to give a solid, which was triturated with diethyl ether:hexane (1:4) to yield the title compound as a white solid (375 mg, 57%).

reactant | 2-Methoxy-4-methyl-N-(methylsulfonyl)benzamide | 2.06 mmol, 500 mg | COC1=C(C(=O)NS(=O)(=O)C)C=CC(=C1)C | C10H13NO4S
reactant | N-bromosuccimide | 2.36 mmol, 402 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
catalyst | azobisisobutyronitrile | 0.06 mmol, 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Methoxy-4-(bromomethyl)-N-(methylsulfonyl)benzamide | 375 mg, 57% | COC1=C(C(=O)NS(=O)(=O)C)C=CC(=C1)CBr | C10H12BrNO4S
